US06642226B2
Rac-cis-(3,5-Bis-trifluoromethyl-phenyl)-{4-[3-(4-methyl-piperazin-1-yl)-phenyl]-3-phenyl-piperidin-1-yl}-methanone
To a solution of rac-cis-(3,5-bis-trifluoromethyl-phenyl)-[4-(3-bromo-phenyl)-3-phenyl-piperidin-1-yl]-methanone (500 mg, 0.899 mmol) in 5 mL dry toluene was added 1-methyl-piperazine (0.123 mL, 1.08 mmol), sodium tert.-butoxide (125 mg, 1.26 mmol), bis(dibenzylidenacetone)palladium (2.1 mg, 0.002 mmol) and rac-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (4.3 mg, 0.007 mmol) and than refluxed overnight. The reaction mixture was diluted with 10 mL water and extracted three times with 20 mL ethyl acetate. Organic phases were pooled, dried with magnesium sulfate and evaporated. Flash chromatography on silica gel with hexane/ethyl acetate/triethyl amine 10:10:1 gave the desired product (196 mg, 38%), MS: m/e=576.1 (M+H+).

reactant | rac-cis-(3,5-bis-trifluoromethyl-phenyl)-[4-(3-bromo-phenyl)-3-phenyl-piperidin-1-yl]-methanone | 0.899 mmol, 500 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)C(=O)N1C[C@H]([C@H](CC1)C1=CC(=CC=C1)Br)C1=CC=CC=C1)(F)F | C26H20BrF6NO
reactant | 1-methyl-piperazine | 1.08 mmol, 0.123 mL | CN1CCNCC1 | C5H12N2
reactant | sodium tert.-butoxide | 1.26 mmol, 125 mg | CC(C)([O-])C.[Na+]
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 10 mL | O | H2O
catalyst | rac-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 0.007 mmol, 4.3 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
product | Rac-cis-(3,5-Bis-trifluoromethyl-phenyl)-{4-[3-(4-methyl-piperazin-1-yl)-phenyl]-3-phenyl-piperidin-1-yl}-methanone | 196 mg, 38% | FC(C=1C=C(C=C(C1)C(F)(F)F)C(=O)N1C[C@H]([C@H](CC1)C1=CC(=CC=C1)N1CCN(CC1)C)C1=CC=CC=C1)(F)F | C31H31F6N3O
